US04026936
164 G. (0.55 mol) of sodium dichromate was added to a stirred solution of 101 g. (0.5 mol) of 2-(p-chlorobenzyl)-pyridine in 450 ml. of acetic acid and the resulting mixture was stirred and refluxed for 3 hrs. The resulting dark green solution was cooled and poured into 1500 ml. of cold water. The precipitate which resulted was collected, washed with water and air dried to yield 2-(4-chlorobenzoyl)pyridine as white microprisms, mp. 62°-64° C. (ligroin).

reactant | sodium dichromate | 0.55 mol | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 2-(p-chlorobenzyl)-pyridine | 0.5 mol | ClC1=CC=C(CC2=NC=CC=C2)C=C1 | C12H10ClN
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(4-chlorobenzoyl)pyridine | ClC1=CC=C(C(=O)C2=NC=CC=C2)C=C1 | C12H8ClNO
